US05252731
Vilsmeir reagent prepared from N,N-dimethylformamide (0.67 ml) and phosphorus oxychloride (0.79 ml) was suspended in dry tetrahydrofuran (25 ml). Thereto was added 2-benzyloxycarbonylmethoxyimino-4-bromo-3-oxobutyric acid (2.8 g) at 0° C. with stirring, and the stirring was continued at 0° to 5° C. for an hour to prepare the activated acid solution. This activated acid solution was added at a time to a solution of benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate hydrochloride (2.2 g) and trimethylsilylacetamide (7.0 g) in methylene chloride (30 ml) at -35° C., and the mixture was stirred at -10° to -5° C. for 30 minutes. The reaction mixture was poured into ethyl acetate (200 ml), and the separated organic solution was washed with a saturated aqueous sodium bicarbonate and a saturated aqueous sodium chloride, followed by drying over magnesium sulfate. Removal of the solvent gave benzhydryl 7-(2-benzyloxycarbonylmethoxyimino-4-bromo-3-oxobutyramido)-3-vinyl-3-cephem-4-carboxylate (2.8 g).

reactant | phosphorus oxychloride | 0.79 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-benzyloxycarbonylmethoxyimino-4-bromo-3-oxobutyric acid | 2.8 g | C(C1=CC=CC=C1)OC(=O)CON=C(C(=O)O)C(CBr)=O | C13H12BrNO6
reactant | benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate hydrochloride | 2.2 g | Cl.NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
reactant | trimethylsilylacetamide | 7.0 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 0.67 ml | CN(C=O)C | C3H7NO
product | benzhydryl 7-(2-benzyloxycarbonylmethoxyimino-4-bromo-3-oxobutyramido)-3-vinyl-3-cephem-4-carboxylate | 2.8 g | C(C1=CC=CC=C1)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C(CBr)=O | C35H30BrN3O8S
